*经典24管D触发器的网表文件 

*反相器 
.subckt INV_D  IN VDD VNW VPW VSS OUT

XP1  VDD  IN  OUT    VNW  p11ll_ckt                     W='Wp'    L=4e-08
XN1  VSS  IN  OUT    VPW  n11ll_ckt                     W='Wn'    L=4e-08

.ends INV_D

*传输门 PCON是PMOS的栅端，NCON是NMOS的栅端
.subckt TG  IN  VNW VPW  PCON  NCON  OUT

*XP2   IN     PCON    OUT    VNW    p11ll_ckt            W=1.7e-07  L=4e-08
*XN2   IN     NCON    OUT    VPW    n11ll_ckt            W=1.7e-07  L=4e-08
XP2   IN     PCON    OUT    VNW    p11ll_ckt            W='Wp'    L=4e-08
XN2   IN     NCON    OUT    VPW    n11ll_ckt            W='Wn'    L=4e-08

.ends TG

*时钟信号 CKI 和 CKN 由 CLK 产生
X_CLK1 CLK VDD VNW VPW VSS CKN INV_D
X_CLK2 CKN VDD VNW VPW VSS CKI INV_D

*电路连接
* MASTER 部分
X_MASTER_INV_1 D    VDD VNW  VPW   VSS      1     INV_D
X_MASTER_TG_1  1    VNW VPW  CKI   CKN      2     TG
X_MASTER_INV_2 2    VDD VNW  VPW   VSS      3     INV_D
X_MASTER_INV_3 3    VDD VNW  VPW   VSS      4     INV_D
X_MASTER_TG_2  4    VNW VPW  CKN   CKI      2     TG
* SLAVE 部分
X_SLAVE_TG_1   3    VNW VPW  CKN   CKI      5     TG
X_SLAVE_INV_1  5    VDD VNW  VPW   VSS      6     INV_D
X_SLAVE_INV_2  6    VDD VNW  VPW   VSS      Q     INV_D
X_SLAVE_INV_3  6    VDD VNW  VPW   VSS      7     INV_D
X_SLAVE_TG_2   7    VNW VPW  CKI   CKN      5     TG

